US05247085
Diethyl (R)-[2-benzyloxy-1-(hydroxymethyl)ethoxy]-methylphosphonate
A suspension of diethyl (S)-[2-benzyloxy-1-(t-butyldiphenylsilyloxymethyl)ethoxy]methylphosphonate (3.09 g, 5.4 mmol) in trifluoroacetic acid/water 2:1 (12 ml) was stirred at ambient temperature for 1 hour. The solution obtained was extracted with hexane (2×10 ml) and the aqueous containing phase evaporated to dryness. The residue obtained was treated with ethanolic ammonia (5 ml) for 5 minutes at ambient temperature, the solvent evaporated and the residue chromatographed on silica gel using dichloromethane/methanol 95:5 as eluant. The title compound was obtained as a colourless oil (1.35 g, 75%). IR: νmax (film) 3380, 3060, 3030, 2980, 2910, 2860, 1495, 1480, 1450, 1390, 1370, 1250, 1160, 1100, 1075, 975, 910, 890, 820, 780, 740, 700 cm-1. 1H NMR: δH [(CD3)2SO]1.21, 1.22 (2×3H, 2×t, J=7 Hz, (OCH2CH3)2, 3.4-3.65 (5H, m, CH2, CH,CH2), 3.94 (2H, d, J=8.5 Hz, OCH2P), 3.97-4.1 (4H, m, (OCH2CH3)2), 4.5 (2H, s, CH2Ph), 4.67 (1H, t, J=5.5 Hz, D2O exchangeable OH), 7.20-7.40 (5H, m, Ph). Found: C, 53.20; H, 7.72%. C15H25O6P 0.33 H2O requires: C, 53.25; H, 7.64%. m/z: observed 332.1383. C15H25O6P requires 332.1387. [α]D25 (CHCl3) +16.7° (c=1.06).

reactant | diethyl (S)-[2-benzyloxy-1-(t-butyldiphenylsilyloxymethyl)ethoxy]methylphosphonate | 5.4 mmol, 3.09 g | C(C1=CC=CC=C1)OC[C@H](OCP(OCC)(OCC)=O)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C31H43O6PSi
reactant | ammonia | 5 ml | N | H3N
solvent | trifluoroacetic acid water | 12 ml | FC(C(=O)O)(F)F.O
product | Diethyl (R)-[2-benzyloxy-1-(hydroxymethyl)ethoxy]-methylphosphonate | C(C1=CC=CC=C1)OC[C@H](OCP(OCC)(OCC)=O)CO | C15H25O6P
